US07939528B2
Preparation of [5,6-bis(methyloxy)-2,3-dihydro-1H-inden-2-yl]amine hydrochloride
This compound was prepared in the same manner as [5-(methyloxy)-2,3-dihydro-1H-inden-2-yl]amine hydrochloride from 5,6-bis(methyloxy)-2,3-dihydro-1H-inden-1-one.

reactant | [5-(methyloxy)-2,3-dihydro-1H-inden-2-yl]amine hydrochloride | Cl.COC=1C=C2CC(CC2=CC1)N
reactant | 5,6-bis(methyloxy)-2,3-dihydro-1H-inden-1-one | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
product | [5,6-bis(methyloxy)-2,3-dihydro-1H-inden-2-yl]amine hydrochloride | Cl.COC=1C=C2CC(CC2=CC1OC)N | InChI=1S/C11H15NO2.ClH/c1-13-10-5-7-3-9(12)4-8(7)6-11(10)14-2;/h5-6,9H,3-4,12H2,1-2H3;1H
